US04012377
A solution of 2-formyl-5-methylthiothiphene (9.11 g., 58 mmole) and cyanomethylenetriphenylphosphorane (19.1 g., 64 mmole) in chloroform (200 ml.) was stirred at room temperature for 1 hr., and was then heated under reflux for 10 mins. to complete the reaction. The solvent was removed, and the residue was triturated with dry ether (50 ml.). Colourless crystals of triphenylphosphine oxide (m.p. 156°-157°), were filtered off, and were washed with ether (10 ml.). The combined filtrates were evaporated, and the dark red oily residue was distilled under reduced pressure to give 3-(5-methylthiothien-2-yl)-acrylonitrile (8.33 g., 80%) as a pale-yellow oil, b.p. 124°-135°/0.7 mm., λmax. 350, 241 nm, (ε 3440, 1460) [Found (on a redistilled sample): C, 52.9; H, 3.8; N, 7.4; S, 35.7. C8H7NS2 (181.3) requires C, 53.0; H, 3.9; N, 7.7; S, 35.4%].

reactant | 2-formyl-5-methylthiothiphene | 58 mmole, 9.11 g | C(=O)C=1SC(=CC1)SC | C6H6OS2
reactant | cyanomethylenetriphenylphosphorane | 64 mmole, 19.1 g | C(#N)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-methylthiothien-2-yl)-acrylonitrile | 8.33 g, 80% | CSC1=CC=C(S1)C=CC#N | C8H7NS2
